US03985887
To one mole of butyl lithium (15% in hexane) at -40° C under nitrogen is added gradually a solution of 142 g (0.9 mol) of 2-bromopyridine in 340 ml. of ether, maintaining the temperature below -40° C. After stirring for 15 minutes at this temperature, a solution of 122 g (0.9 mol) of 4-methoxybenzaldehyde in 250 ml of ether is added, with the temperature below -15° C. The reaction mixture is stirred for 40 minutes at this temperature, quenched in 1.5 l ice water. The solid is filtered and washed with cold ether to give 4-methoxyphenyl-2-pyridylcarbinol, m.p. 126°-130° C.

reactant | butyl lithium | one mole | C(CCC)[Li]
reactant | 2-bromopyridine | 0.9 mol, 142 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 4-methoxybenzaldehyde | 0.9 mol, 122 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | ether | 250 ml | CCOCC | C4H10O
product | 4-methoxyphenyl-2-pyridylcarbinol | COC1=CC=C(C=C1)C(O)C1=NC=CC=C1 | C13H13NO2
